US06960601B2
A solution of ethyl 2-(cyclopropylmethyl)-1,3-dithiane-2-carboxylate (19.6 g, 79.67 mmol) in CH3CN (20 mL) was slowly added, over 30 minutes, to a well-stirred suspension of NBS (N-bromosuccinimide) in CH3CN (210 mL) and water (55 mL). After the mixture was stirred for 1 h, the resulting red solution was poured into an ice-cold CH2Cl2-Hexane solution (1:1 500 mL). The resulting mixture was washed with saturated aqueous NaHSO3 and water. The colorless organic phase was carefully washed with saturated aqueous K2CO3 and water. The organic phase was dried over MgSO4, then evaporated to give 6.88 g (55%) of ethyl 3-cyclopropyl-2-oxopropanoate as a yellow oil. 1H NMR (CDCl3): δ 4.29 (2H, q, J=8 Hz), 2.71 (2H, d, J=9 Hz), 1.35 (3H, t, J=8 Hz), 1.05-0.98 (1H, m), 0.59-0.54 (2H, m), 0.17-0.14 (2H, m).

reactant | ethyl 2-(cyclopropylmethyl)-1,3-dithiane-2-carboxylate | 79.67 mmol, 19.6 g | C1(CC1)CC1(SCCCS1)C(=O)OCC | C11H18O2S2
reactant | NBS | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | CH3CN | 210 mL | CC#N | C2H3N
solvent | water | 55 mL | O | H2O
product | ethyl 3-cyclopropyl-2-oxopropanoate | 6.88 g, 55% | C1(CC1)CC(C(=O)OCC)=O | C8H12O3
